US03984465
A solution of 2-methyl-5-methoxy-6,7-dichloro-1-indanone (7.35 g., 0.03 mole) in tert.-butyl alcohol (100 ml.) is refluxed in an inert atmosphere and treated with potassium tert.-butoxide (4.48 G., 0.04 mole). After onehalf hour at reflux cyclopentyl bromide (9.9 g., 0.06 mole) is added and refluxing is continued for 1 hour. The reaction is poured into water (1 l.) affording 2-cyclopentyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone which melts at 109°-111°C.

reactant | 2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.03 mole, 7.35 g | CC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C11H10Cl2O2
reactant | potassium tert.-butoxide | 0.04 mole | CC(C)([O-])C.[K+]
reactant | cyclopentyl bromide | 0.06 mole, 9.9 g | C1(CCCC1)Br | C5H9Br
reactant | water | 1 l | O | H2O
solvent | tert.-butyl alcohol | 100 ml | C(C)(C)(C)O | C4H10O
product | 2-cyclopentyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C16H18Cl2O2
